US07253286B2
N-(4-(6-Cyano-7-(3-diethylamino-(2R)-2-hydroxy-propoxy) quinolin-4-yloxy)-2,3-dimethylphenyl)-N′-cyclopropylurea
After adding tetrahydrofuran (2.0 ml) and diethylamine (0.50 ml) to N-(4-(6-cyano-7-((2R)-oxiran-2-yl)methoxyquinolin-4-yloxy)-2,3-dimethylphenyl)-N′-cyclopropylurea (80 mg), the mixture was heated at 60° C. for 6 hours. The reaction solution was allowed to cool, and the precipitated crystals were filtered out to obtain the title compound (32 mg) as light brown crystals.

reactant | diethylamine | 0.50 ml | C(C)NCC | C4H11N
reactant | N-(4-(6-cyano-7-((2R)-oxiran-2-yl)methoxyquinolin-4-yloxy)-2,3-dimethylphenyl)-N′-cyclopropylurea | 80 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC[C@@H]1OC1)OC1=C(C(=C(C=C1)NC(=O)NC1CC1)C)C | C25H24N4O4
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
product | N-(4-(6-Cyano-7-(3-diethylamino-(2R)-2-hydroxy-propoxy) quinolin-4-yloxy)-2,3-dimethylphenyl)-N′-cyclopropylurea | 32 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC[C@@H](CN(CC)CC)O)OC1=C(C(=C(C=C1)NC(=O)NC1CC1)C)C | C29H35N5O4
